US06057311
b. 2-(3-tert-butyldimethylsilyloxyprop-2-enyl)nitrobenzene
Tert-butyldimethylchlorosilane (5.10 g, 33.8 mmol) was added to a solution of 2-nitrocinnamyl alcohol (5.05 g, 28.2 mmol) and imidazole (2.88 g, 42.3 mmol) in DMF (100 ml). After stirring at room temperature for 18 hours the reaction mixture was partitioned between water (200 ml) and ethyl acetate (200 ml). The organic layer was separated washed with brine (2×m 100 ml) and dried (MgSO4). Filtration and evaporation of the solvent gave the crude product which was purified by flash chromatography on silica gel with ethyl acetate-hexane (1:3) as eluant. (7.82 g, 95%).

reactant | Tert-butyldimethylchlorosilane | 33.8 mmol, 5.10 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 2-nitrocinnamyl alcohol | 28.2 mmol, 5.05 g | [N+](=O)([O-])C1=C(C=CCO)C=CC=C1 | C9H9NO3
reactant | imidazole | 42.3 mmol, 2.88 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-(3-tert-butyldimethylsilyloxyprop-2-enyl)nitrobenzene | [Si](C)(C)(C(C)(C)C)OC=CCC1=C(C=CC=C1)[N+](=O)[O-] | C15H23NO3Si
